US07022702B2
Synthesis of 5-Phenylamino-[1,2,3]thiadiazole-4-carboxylic acid amide
To an ice cooled THF solution of t-BuOK (1.0 mmol) in a flask was added acetoacetamide (0.10 g, 1.0 mmol) in anhydrous THF. Phenyl isothiocyanate solution (0.15 g, 1.1 mmol) was added slowly to the flask with stirring 15 minutes after the addition of acetoacetamide. The reaction mixture was stirred at room temperature for about 2 h. Then 2 mL of water was added to the reaction mixture and it was kept stirring at room temperature for about 1 h. The pH of the solution was adjusted with 2 N HCl solution to about 5. The organic layer was separated and the solvent was removed. The solid obtained was then dissolved in anhydrous ethanol. Triethylamine (0.1 mL) and p-tosyl azide (0.2 g, 1.0 mmol) were added to the solution sequentially. The mixture was warmed up to 45° C. and stirred for about 30 minutes. The solid precipitate from the reaction mixture was collected, washed with cold ethanol and dried. This process yielded 0.14 g (64%) of the desired product, characterized as follows: m.p.: 195-197° C. 1H NMR (ppm, in DMSO—d6): 11.01 (s, 1 H), 8.36 (s, 1 H), 7.88 (s, 1 H), 7.15-7.60 (m, 5 H). FTIR (cm−1, KBr pellet): 3367, 1680, 1648, 1595, 1551, 1470, 1449, 1313, 1251, 1080, 877, 793, 747, 650. Mass spectrum (El): 220 (75%, M+), 192, (42%, (M−28)+), 77 (100%, C6H5+).

reactant | t-BuOK | 1.0 mmol | CC(C)(C)[O-].[K+]
reactant | acetoacetamide | 1.0 mmol, 0.10 g | C(CC(=O)C)(=O)N | C4H7NO2
reactant | Phenyl isothiocyanate | 1.1 mmol, 0.15 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | HCl | 2 N | Cl | ClH
reactant | p-tosyl azide | 1.0 mmol, 0.2 g | CC1=CC=C(C=C1)S(=O)(=O)[N-][N+]#N | C7H7N3O2S
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | Triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | water | 2 mL | O | H2O
product | 5-Phenylamino-[1,2,3]thiadiazole-4-carboxylic acid amide | 0.14 g, 64% | C1(=CC=CC=C1)NC1=C(N=NS1)C(=O)N | C9H8N4OS
